.subckt TDA2030 1 2 3 4 5 
r11 5 4 700
s1 3 4 x1:u1:x 3 x1:u1:q 
s2 5 3 3 x1:u1:x x1:u1:q 
a1 20 1 0 0 0 0 x1:u1:x 0 ota g=0.0002 ref=0 iout=3.18309886183791e-005 cout=4.54728408833987e-012 en=2e-008 enk=0 in=1e-011 ink=0 incm=0 incmk=0 vhigh=1e308 vlow=-1e308
.param a=12
b 20 1 v=tanh(a*v(2,1))/a
c3 3 5 1p
c4 4 3 1p
r2 x1:u1:x 5 200000000 noiseless
r1 4 x1:u1:x 200000000 noiseless
r3 4 1 10000000 noiseless
r4 4 2 10000000 noiseless
r5 2 5 10000000 noiseless
r6 1 5 10000000 noiseless
b1 x1:u1:x 0 i=if(v(x1:u1:x,4)<0,0,(6.36619772367581e-005 *v(x1:u1:x,4))**2)
b2 0 x1:u1:x i=if(v(x1:u1:x,5)>0,0,(6.36619772367581e-005 *v(5,x1:u1:x))**2)
d1 3 4 x1:u1:x 
d2 5 3 x1:u1:x 
d:x1:1 5 3 d1
.model d1 d cjo=100p rs=0.1
.model x1:u1:x d(ron=10m epsilon=10 noiseless)
.model x1:u1:q sw(ron=100m roff=10meg vt=0 vh=-.1 vser=1.4 ilimit=4 noiseless level=2 epsilon=0.1)
.ends
