*  TNOM                 : 25 degree

.SUBCKT NMOS_TK16N60W 1 2 3
M0 1 22 3 3
+ smsmosfet
+ L = 5E-006
+ W = 0.085
+ AD = 2E-009
+ AS = 2E-007
+ PD = 0.2
+ PS = 0.2
D0 3 1
+ DDS1
D1 3 1
+ DDS2
D2 2 10
+ DGS1
D3 3 10
+ DGS2
R1 10 3 1E+009
R2 10 2 1E+009
RG 2 22 6
.MODEL smsmosfet NMOS
+ LEVEL = 7
+ VERSION = 3.3
+ MOBMOD = 1
+ CAPMOD = 3
+ NOIMOD = 1
+ TOX = 1.5E-008
+ XJ = 1.5E-007
+ NCH = 1.7E+017
+ NGATE = 0
+ RSH = 0
+ TNOM = 25
+ VTH0 = 3.5147
+ VOFF = -0.08
+ NFACTOR = 10.0166
+ U0 = 4585.2469
+ K1 = 0.53
+ K2 = -0.0186
+ K3 = 80
+ K3B = 0
+ W0 = 2.5E-006
+ NLX = 1.74E-007
+ DVT0 = 2.2
+ DVT1 = 0.53
+ DVT2 = -0.032
+ DVT0W = 0
+ DVT1W = 5.3E+006
+ DVT2W = -0.032
+ DWG = 0
+ DWB = 0
+ UA = 8.1764e-16
+ UB = 5.87E-019
+ UC = -4.65E-011
+ VSAT = 44276.9294
+ A0 = 0.82569
+ AGS = 1.4699
+ B0 = 0
+ B1 = 0
+ KETA = -0.047
+ A1 = 0
+ A2 = 1
+ DELTA = 0.060483
+ RDSW = 12039.69
+ PRWG = 0
+ PRWB = 0
+ WR = 1
+ CDSC = 2.4E-004
+ CDSCD = 0
+ CDSCB = 0
+ CIT = 0
+ ETA0 = 0.08
+ ETAB = -0.07
+ DSUB = 0.56
+ PCLM = 0.014909
+ PDIBLC1 = 0.39
+ PDIBLC2 = 1.7417e-06
+ PDIBLCB = 0
+ DROUT = 0.56
+ PSCBE1 = 4.24E+008
+ PSCBE2 = 1E-009
+ PVAG = 0
+ ALPHA0 = 0
+ ALPHA1 = 0
+ BETA0 = 30
+ NJ = 1
+ JS = 1E-004
+ XPART = 0
+ CGSO = 9.7148e-13
+ CGDO = 1.7639e-12
+ CGBO = 0
+ CGDL = 1.8342e-08
+ CGSL = 5.1366e-12
+ CKAPPA = 0.015086
+ CF = 0
+ CLC = 1E-007
+ CLE = 0.6
+ VOFFCV = 0
+ NOFF = 1
+ DLC = 0
+ ACDE = 1
+ MOIN = 15
+ CJ = 6
+ CJSW = 5E-010
+ CJSWG = 5E-010
+ PB = 50
+ PBSW = 1
+ PBSWG = 1
+ MJ = 7
+ MJSW = 0.33
+ MJSWG = 0.33
+ AF = 1
+ EF = 1
+ KF = 0
+ UTE = -1.1187
+ KT1 = -2.1487
+ KT1L = 0
+ KT2 = 0.022
+ UA1 = 4.31E-009
+ UB1 = -7.61E-018
+ UC1 = -5.6E-011
+ AT = 33000
+ PRT = 24000
+ XTI = 3
+ TCJ = 0
+ TPB = 0
+ TCJSW = 0
+ TPBSW = 0
+ TCJSWG = 0
+ TPBSWG = 0
+ DWC = -0.030209
.MODEL DDS1 D
+ TNOM = 25
+ IS = 5.2738e-10
+ RS = 0.035305
+ N = 1.3034
+ CJO = 4.3709e-14
+ VJ = 1.4981
+ M = 0.20164
+ XTI = 3
+ BV = 600
+ IBV = 0.01
.MODEL DDS2 D
+ TNOM = 25
+ IS = 5.2738e-10
+ RS = 0.035305
+ N = 1.3034
+ CJO = 9.7278e-17
+ VJ = 0.70039
+ M = 0.20352
+ XTI = 3
.MODEL DGS1 D
+ TNOM = 25
+ IS = 1E-014
+cjo=1f
.MODEL DGS2 D
+ TNOM = 25
+ IS = 1E-014
+cjo=1f
.ENDS
