*  TNOM                 : 25 degree
.SUBCKT TK20N60W5 1 2 3
M0 1 22 3 3
+ smsmosfet
+ L = 5E-006
+ W = 0.18
+ AD = 5e-08
+ AS = 5e-08
+ PD = 0.5
+ PS = 0.5
D0 3 1
+ DDS1
D1 3 1
+ DDS2
D2 2 10
+ DGS1
D3 3 10
+ DGS2
R1 10 3 1E+009
R2 10 2 1E+009
RG 2 22 1.5
.MODEL smsmosfet NMOS
+ LEVEL = 7
+ MOBMOD = 1
+ CAPMOD = 3
+ NOIMOD = 1
+ TOX = 1.5E-008
+ XJ = 1.5E-007
+ NCH = 1.7E+017
+ NGATE = 0
+ RSH = 0
+ TNOM = 25
+ VTH0 = 5.3827
+ VOFF = -0.08
+ NFACTOR = 19.2557
+ U0 = 9584.0505
+ K1 = 0.53
+ K2 = -0.0186
+ K3 = 80
+ K3B = 0
+ W0 = 2.5E-006
+ NLX = 1.74E-007
+ DVT0 = 2.2
+ DVT1 = 0.53
+ DVT2 = -0.032
+ DVT0W = 0
+ DVT1W = 5.3E+006
+ DVT2W = -0.032
+ DWG = 0
+ DWB = 0
+ UA = 3.3402e-13
+ UB = 5.87E-019
+ UC = -4.65E-011
+ VSAT = 21225.3708
+ A0 = 0.28147
+ AGS = 2.4958
+ B0 = 0
+ B1 = 0
+ KETA = -0.047
+ A1 = 0
+ A2 = 1
+ DELTA = 0.0011594
+ RDSW = 24000
+ PRWG = 0
+ PRWB = 0
+ WR = 1
+ CDSC = 2.4E-004
+ CDSCD = 0
+ CDSCB = 0
+ CIT = 0
+ ETA0 = 0.08
+ ETAB = -0.07
+ DSUB = 0.56
+ PCLM = 0.011426
+ PDIBLC1 = 0.39
+ PDIBLC2 = 0.03183
+ PDIBLCB = 0
+ DROUT = 0.56
+ PSCBE1 = 4.24E+008
+ PSCBE2 = 1E-009
+ PVAG = 0
+ ALPHA0 = 0
+ ALPHA1 = 0
+ BETA0 = 30
+ NJ = 1
+ JS = 1E-004
+ XPART = 0
+ CGSO = 2.116e-13
+ CGDO = 2.4902e-15
+ CGBO = 0
+ CGDL = 3.4321e-08
+ CGSL = 5.9702e-11
+ CKAPPA = 0.00050987
+ CF = 0
+ CLC = 1E-007
+ CLE = 0.6
+ VOFFCV = 0
+ NOFF = 1
+ DLC = 0
+ ACDE = 1
+ MOIN = 15
+ CJ = 0.39373
+ CJSW = 5E-010
+ CJSWG = 5E-010
+ PB = 19.9841
+ PBSW = 1
+ PBSWG = 1
+ MJ = 3.9403
+ MJSW = 0.33
+ MJSWG = 0.33
+ AF = 1
+ EF = 1
+ KF = 0
+ UTE = -0.3
+ KT1 = -1.72
+ KT1L = 0
+ KT2 = 0.022
+ UA1 = 4.31E-009
+ UB1 = -7.61E-018
+ UC1 = -5.6E-011
+ AT = 0
+ PRT = 40000
+ XTI = 3
+ TCJ = 0
+ TPB = 0
+ TCJSW = 0
+ TPBSW = 0
+ TCJSWG = 0
+ TPBSWG = 0
+ DWC = 0.0030628
.MODEL DDS1 D
+ TNOM = 25
+ IS = 3.8764e-08
+ RS = 0.061316
+ N = 1.6283
+ CJO = 2.171e-12
+ VJ = 0.21314
+ M = 0.4207
+ XTI = -10
+ TT = 1.1296e-07
+ BV = 600
+nbv=5
+ IBV = 0.01
.MODEL DDS2 D
+ TNOM = 25
+ IS = 3.8764e-08
+ RS = 0.061316
+ N = 1.6283
+ CJO = 5.5955e-14
+ VJ = 0.2793
+ M = 0.31816
+ XTI = -10
+ TT = 1.1296e-07
.MODEL DGS1 D
+ TNOM = 25
+ IS = 1E-014
+cjo=1f
.MODEL DGS2 D
+ TNOM = 25
+ IS = 1E-014
+cjo=1f
.ENDS


