.subckt TL072-R INP INN VSP VSN OUT
Q8 VSP Q11_C Q8_E  N1 10
Q9 Q11_C Q10_E Q9_E  N1
R8 INN Q13_D 500G
R9 VSP R9_N 75 
I1 Q16_B VSN 400u load
Q16 Q16_B Q16_B VSP  P1
J$Q14 Q14_D INP Q12_C PJ
Q12 Q12_C Q16_B R9_N  P1
J$Q13 Q13_D INN Q12_C PJ
Q10 Q11_C Q11_C Q10_E  N1
Q11 Q11_C Q16_B VSP  P1
R10 OUT R5_N 128
R11 INP Q14_D 500G
C1 Q9_E Q14_D 18p
D1 VSN Q16_B IDEAL
D2 Q14_D Q9_E IDEAL
Q2 Q14_D Q3_E Q2_E  N1
R4 Q5_E VSN 800 
R5 Q8_E R5_N 64
Q3 VSP Q13_D Q3_E  N1
R6 R5_N R6_N 64
Q1 Q13_D Q3_E Q1_E  N1
R7 Q10_E Q9_E 1K
R1 Q1_E VSN 1.08k
Q7 VSN Q9_E R6_N  P1 10
Q4 VSP Q14_D Q4_E  N1
R2 Q2_E VSN 1.08k
R3 Q4_E VSN 100k
Q5 Q9_E Q4_E Q5_E  N1


*.model PJ PJF BETA={GAUSS(0.01)*200u} VTO={GAUSS(0.003)*(-2)} kf=0.7e-17 af=1 isr=1e-11

.model PJ PJF BETA=200u VTO=-2 kf=0.7e-17 af=1 isr=1e-11

.model N1 NPN IS=1e-15 BF=200 IKF=0.05 TF=0.5n CJC=0.5p VAF=200
.model P1 PNP IS=2e-15 BF=100 IKF=0.01 TF=2n CJC=1p VAF=50

.model IDEAL D (IS=1p) CJO=0.02p
.ends
